US03984228
Preparation of N-(β-Hydroxyethyl)-N-methyl-N'-(2-trifluoromethyl-1,3,4-thiadiazol-5-yl)urea
2-Trifluoromethyl-1,3,4-thiadiazol-5-yl isocyanate dimer (8 grams), N-methyl-N-β-hydroxyethylamine (3.1 grams) and benzene (40 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer, reflux condenser and thermometer. The reaction mixture was heated at reflux, with stirring for a period of about 10 minutes. After this time the reaction mixture was stripped of solvent under reduced pressure to yield the desired product N-(β-hydroxyethyl)-N-methyl-N'-(2-trifluoromethyl-1,3,4-thiadiazol-5-yl)urea as an oily residue.

reactant | 2-Trifluoromethyl-1,3,4-thiadiazol-5-yl isocyanate | FC(C=1SC(=NN1)N=C=O)(F)F | C4F3N3OS
reactant | N-methyl-N-β-hydroxyethylamine | 3.1 grams | CNCCO | C3H9NO
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | N-(β-hydroxyethyl)-N-methyl-N'-(2-trifluoromethyl-1,3,4-thiadiazol-5-yl)urea | OCCN(C(=O)NC1=NN=C(S1)C(F)(F)F)C | C7H9F3N4O2S
